US07977370B2
4-(3-methoxyphenyl)-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohexylamine (Example No. 28, one of two diastereoisomers)
3-methyl-1H-indole (393 mg, 3 mmol) and the 4-dimethylamino-1-(3-methoxyphenyl)-4-phenylcyclohexanol (651 mg, 2 mmol) mixture were dissolved in absolute dichloromethane (50 ml) with exclusion of oxygen, mixed with trifluoromethane sulphonic acid (581 μl, 3 mmol) and stirred for 16 h at room temperature. For work up the batch was mixed with 5N NaOH (50 ml) and stirred for 1 h at room temperature. The aqueous phase was separated and extracted with dichloromethane (3×25 ml). The combined organic phases were dried over Na2SO4 and then concentrated to low volume. A raw product was isolated that was purified by chromatography [silica gel 60 (50 g); ethyl acetate (500 ml)]. The product was obtained as a white solid with a yield of 90 mg (10%) and a melting point of 278-281° C. This concerned one of two possible diastereoisomers.

reactant | 3-methyl-1H-indole | 3 mmol, 393 mg | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | 4-dimethylamino-1-(3-methoxyphenyl)-4-phenylcyclohexanol | 2 mmol, 651 mg | CN(C1(CCC(CC1)(O)C1=CC(=CC=C1)OC)C1=CC=CC=C1)C | C21H27NO2
reactant | trifluoromethane sulphonic acid | 3 mmol, 581 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 5N, 50 ml | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | oxygen | O=O | O2
product | 4-(3-methoxyphenyl)-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohexylamine | COC=1C=C(C=CC1)C1(CCC(CC1)(C1=CC=CC=C1)N(C)C)C=1NC2=CC=CC=C2C1C | C30H34N2O
